US05665718
13.9 ml (55.6 mmol) of 4N sodium hydroxide solution were added dropwise to a suspension of 13.5 g (44.5 mmol) of ethyl (S)-8-oxo-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepine-1-carboxylate in 10 ml of ethanol and 16 ml of water. The mixture was heated at reflux for 30 minutes and the ethanol was subsequently distilled off. The aqueous phase was washed twice with methylene chloride and adjusted to pH=3 with 4N hydrochloric acid. The resulting precipitate was filtered off and washed with water, ethanol and subsequently with diethyl ether. There were obtained 10.8 g (88%) of (S)-8-oxo-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepine-1-carboxylic acid as a colourless powder of m.p. 260° (dec.).

reactant | sodium hydroxide | 55.6 mmol, 4N, 13.9 ml | [OH-].[Na+]
reactant | ethyl (S)-8-oxo-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepine-1-carboxylate | 44.5 mmol, 13.5 g | O=C1C2=C(N3C([C@H]4N1CC4)=C(N=C3)C(=O)OCC)C=CS2 | C14H13N3O3S
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 16 ml | O | H2O
product | (S)-8-oxo-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepine-1-carboxylic acid | 10.8 g, 88% | O=C1C2=C(N3C([C@H]4N1CC4)=C(N=C3)C(=O)O)C=CS2 | C12H9N3O3S
